US05212248
1-Di-n-butylamino-5,5,7,7-tetramethyl-2-octene
10 g (49.5 mmol) of 1-chloro-5,5,7,7-tetramethyl-2-octene, 64 g (495 mmol) of di-n-butylamine and 10 g (248 mmol) of magnesium oxide in 30 ml of THF are refluxed for 4.5 h. The mixture is taken up in 200 ml of hexane, extracted twice with 5% strength methanolic NaOH and once with water and dried at 30° C./1 mbar. Yield: quantitative.

reactant | 1-chloro-5,5,7,7-tetramethyl-2-octene | 49.5 mmol, 10 g | ClCC=CCC(CC(C)(C)C)(C)C | C12H23Cl
reactant | di-n-butylamine | 495 mmol, 64 g | C(CCC)NCCCC | C8H19N
reactant | magnesium oxide | 248 mmol, 10 g | [O-2].[Mg+2]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | hexane | 200 ml | CCCCCC | C6H14
product | 1-Di-n-butylamino-5,5,7,7-tetramethyl-2-octene | Yield: quantitative | C(CCC)N(CC=CCC(CC(C)(C)C)(C)C)CCCC | C20H41N
